US07777038B2
10 g of 10% palladium carbon was added to a DMF solution (100 ml) of 10.0 g of 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione, and the mixture was subjected to a catalytic reduction at 40° C. for 5 hours. The catalyst was removed by filtration, and the filtrate was concentrated. Ethyl acetate and water were added to the residue, and celite filtration was carried out. The filtrate was washed with water and dried over magnesium sulfate, followed by concentration. The residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1→1:4), and the purified product was recrystallized from ethyl acetate, giving 7.98 g (86% yield) of 5-[1-(4-aminobenzyl)-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione as a white powder.

reactant | 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 10.0 g | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1C(NC(S1)=O)=O | C21H19N3O6S
catalyst | palladium carbon | 10 g | [C].[Pd]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-[1-(4-aminobenzyl)-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 7.98 g, 86% yield | NC1=CC=C(CN2C(CCC3=C(C=CC(=C23)OC)CC2C(NC(S2)=O)=O)=O)C=C1 | C21H21N3O4S
